US05342846
1-Cyclopropyl-6,8-difluoro-5-methyl-7-[3-(1,2,4-triazol-1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
1-Cyclopropyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (30 mg, 0.1 mmol) was reacted with 40 mg (0.2 mmol) of 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride in 2 ml of pyridine in the presence of 70 mg (0.45 mmol) of DBU at 95° C. overnight. The orange solution was evaporated to dryness and to the residue water was added. The orange solid was collected and washed with methanol to yield 19 mg of the crude product, which upon further purification from methanol yielded 12 mg of the desired product. m.p. 207°-210° C. 1H NMR (TFA) δ: 9.81 (s, 1H), 9.27 (s, 1H), 8.78 (s, 1H), 5.75-5.55 (m, 1H), 4.83-4.12 (m, 5H), 3.0-2.7 (m, 5H), 1.7-1.2 (m, 4H). Anal. calcd. for C20H19F2N5O3H2O: C, 55.43; H, 4.88; N, 16.16. Found: C, 55.72; H, 4.73; N, 15.65.

reactant | 1-Cyclopropyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.1 mmol, 30 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C14H10F3NO3
reactant | 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride | 0.2 mmol, 40 mg | Cl.N1(N=CN=C1)C1CNCC1
reactant | DBU | 0.45 mmol, 70 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6,8-difluoro-5-methyl-7-[3-(1,2,4-triazol-1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 12 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)N1N=CN=C1)F)C)=O)C(=O)O | C20H19F2N5O3
